US06596734B1
2-(3,5-dibromo-4-methoxy-phenyl)-N-[2-(3-methanesulfonylamino-phenyl)-ethyl]-acetamide.
Methanesulfonyl chloride (0.0313 g, 0.000273 mol) was added to DMAP (0.0334 g, 0.000273 mol) in methylene chloride (6 mL). To the resulting white complex N-[2-(3-amino-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide (0.1 g, 0.000226 mol) in methylene chloride (6mL) was added dropwise. The reaction mixture was stirred for 18 h at room temperature, washed with 1 N HCl and 1 N NaOH. The organic layer was dried over anhydrous sodium sulfate, concentrated and purified by column chromatography (silica gel, 1:1 ethyl acetate-hexane mixture). Yield 0.058 g, 49%. MS m/e 518.7 [M+H].

reactant | Methanesulfonyl chloride | 0.000273 mol, 0.0313 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[2-(3-amino-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide | 0.000226 mol, 0.1 g | NC=1C=C(C=CC1)CCNC(CC1=CC(=C(C(=C1)Br)OC)Br)=O | C17H18Br2N2O2
catalyst | DMAP | 0.000273 mol, 0.0334 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6mL | C(Cl)Cl | CH2Cl2
product | 2-(3,5-dibromo-4-methoxy-phenyl)-N-[2-(3-methanesulfonylamino-phenyl)-ethyl]-acetamide | BrC=1C=C(C=C(C1OC)Br)CC(=O)NCCC1=CC(=CC=C1)NS(=O)(=O)C | C18H20Br2N2O4S
